US04363909
A solution of (S)-3-[(3-ethoxycarbonylmethylisoquinol-5-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline (3.8 g) in 3 N hydrochloric acid (60 cc) is heated at 100° C. for 6 hours. After cooling, the pH of the solution is adjusted to 7 by adding 5 N sodium hydroxide solution, and the mixture is then extracted with methylene chloride (2×200 cc). The organic extracts are combined, dried over magnesium sulphate and then concentrated to dryness. The resulting residue is dissolved in a dimethylformamide/water mixture (2/1 by volume; 60 cc), the solution is heated to the boil, decolorising charcoal (0.3 g) is added and the mixture is filtered hot. After cooling at 5° C. for 20 hours, the crystals which have appeared are filtered off, washed with diisopropyl ether and then dried at 70° C. under reduced pressure (0.1 mm Hg; 0.013 kPa) to yield (S)-3-[(3-carboxymethylisoquinol-5-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (1.7 g), melting at about 200° C. (with decomposition).

reactant | (S)-3-[(3-ethoxycarbonylmethylisoquinol-5-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]-isoquinoline | 3.8 g | C(C)OC(=O)CC=1N=CC2=CC=CC(=C2C1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C24H23N3O2S
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | hydrochloric acid | 3 N, 60 cc | Cl | ClH
product | (S)-3-[(3-carboxymethylisoquinol-5-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 1.7 g | C(=O)(O)CC=1N=CC2=CC=CC(=C2C1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C22H19N3O2S
